US07223791B2
A mixture of methyl 3-[5-(4-chlorophenyl)-3-isoxazolyl]benzoate (1.10 g), 1 M aqueous sodium hydroxide solution (5 ml), tetrahydrofuran (15 ml) and methanol (15 ml) was stirred at 60° C. for 1 hr. After cooling, the reaction mixture was poured into water, and 1 M hydrochloric acid (5 ml) was added. The crystals were collected by filtration and recrystallized from tetrahydrofuran-hexane to give 3-[5-(4-chlorophenyl)-3-isoxazolyl]benzoic acid (0.91 g, yield 87%) as colorless crystals. melting point: 298–299° C.

reactant | methyl 3-[5-(4-chlorophenyl)-3-isoxazolyl]benzoate | 1.10 g | ClC1=CC=C(C=C1)C1=CC(=NO1)C=1C=C(C(=O)OC)C=CC1 | C17H12ClNO3
reactant | sodium hydroxide | 1 M, 5 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1 M, 5 ml | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | 3-[5-(4-chlorophenyl)-3-isoxazolyl]benzoic acid | 0.91 g, yield 87% | ClC1=CC=C(C=C1)C1=CC(=NO1)C=1C=C(C(=O)O)C=CC1 | C16H10ClNO3
